US07482456B2
Step 2: 8-bromo-N-cyclopropylquinoline-6-carboxamide
A solution of HATU (1.2 eq), 8-bromoquinoline-6-carboxylic acid (1 eq), diisopropylethylamine (2.5 eq) and cyclopropylamine (1.1 eq) was stirred at rt for 1 h in DMF (0.2 M). The reaction mixture was diluted with water, stirred for 2 h and extracted with EtOAc. The organic extracts were washed with brine, dried over MgSO4, filtered and concentrated. The residue was crystallized in EtOAc and title product isolated by filtration as a white powder.

reactant | HATU | 1.2 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 8-bromoquinoline-6-carboxylic acid | 1 eq | BrC=1C=C(C=C2C=CC=NC12)C(=O)O | C10H6BrNO2
reactant | diisopropylethylamine | 2.5 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopropylamine | 1.1 eq | C1(CC1)N | C3H7N
solvent | DMF | 0.2 M | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 8-bromo-N-cyclopropylquinoline-6-carboxamide | BrC=1C=C(C=C2C=CC=NC12)C(=O)NC1CC1 | C13H11BrN2O
